2102-06-22 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2102-6-21**] 06:45 PM
   -CIWA yesterday high 32: given 40IV [**Male First Name (un) **], 25PO [**Male First Name (un) **], 5 IV Haldol; o/n
   trended down CIWA [**2-13**]; scored twice given 10IV and 10PO; decreased HRs
   and BPs
   -trace guiac +
   - CXR showed possibly widdened aorta, recommends PA/Lateral. Must sign
   this out when pt transferred
   - Head CT showed no acute bleed
   - lytes repleated
   - liver did not find anything on scope, although awaiting final report
   - restarted diet
   Allergies:
   Cephalosporins
   Rash; Renal Tox
   Penicillins
   Rash; Renal Tox
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2102-6-21**] 11:25 AM
   Pantoprazole (Protonix) - [**2102-6-21**] 02:07 PM
   Midazolam (Versed) - [**2102-6-21**] 06:40 PM
   Fentanyl - [**2102-6-21**] 06:40 PM
   Lorazepam (Ativan) - [**2102-6-21**] 07:45 PM
   Diazepam (Valium) - [**2102-6-22**] 12:00 AM
   Other medications:
   Calcium Carbonate 2. Diazepam 3. Diazepam 4. Fentanyl Citrate 5. FoLIC
   Acid 6. Haloperidol 7. Magnesium Sulfate
   8. Metoprolol Tartrate 9. Midazolam 10. Multivitamins 11. Neutra-Phos
   12. Pantoprazole 13. Potassium Chloride
   14. Potassium Phosphate 15. Thiamine 16. Thiamine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no pain, feels no anxiety compared to yesterday,
   hungry, states that he wants to quit etoh, family supportive and wants
   to go to AA but has never gone before
   Flowsheet Data as of  [**2102-6-22**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 77 (73 - 136) bpm
   BP: 135/67(84) {112/56(76) - 171/101(115)} mmHg
   RR: 23 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,283 mL
                                                                    836 mL
   PO:
                                                                    600 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  5,683 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  2,591 mL
                                                                    490 mL
   Urine:
                                                                  2,591 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,692 mL
                                                                    346 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Gen: NAD, no restraints, tremor, monotone voice, alert, oriented X2
   (thinks we are in hotel), can recall events as far as visitors from
   yesterday but says he was admitted for a colonoscopy; tremor worse with
   activity
   CV: rrr nl s1/s2 no murmurs
   Pulm: CTA b/l
   Abd: +BS, soft, NT, ND
   Ext: no edema
   Skin: unchanged erythematous rash right lower abd and upper thigh
   Labs / Radiology
   92 K/uL
   9.5 g/dL
   113 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.7 mEq/L
   7 mg/dL
   108 mEq/L
   141 mEq/L
   28.0 %
   2.7 K/uL
        [image002.jpg]
                             [**2102-6-21**]  02:06 AM
                             [**2102-6-21**]  09:51 AM
                             [**2102-6-21**]  03:39 PM
                             [**2102-6-21**]  10:38 PM
                             [**2102-6-22**]  03:08 AM
   WBC
   2.8
   2.2
   3.2
   2.7
   Hct
   28.5
   28.5
   27.9
   28.6
   28.0
   Plt
   77
   74
   87
   92
   Cr
   1.3
   1.3
   1.2
   1.2
   Glucose
   98
   85
   89
   113
   Other labs: PT / PTT / INR:15.0/28.6/1.3, ALT / AST:96/200, Alk Phos /
   T Bili:153/9.3, Differential-Neuts:50.5 %, Lymph:38.5 %, Mono:7.5 %,
   Eos:3.4 %, Albumin:3.5 g/dL, LDH:284 IU/L, Ca++:7.8 mg/dL, Mg++:1.8
   mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED HEALTH MAINTENANCE
 ALCOHOL ABUSE
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Assessment and Plan: This is a 50 year old man with history of ETOH
   abuse admitted to ICU with alcohol withdrawal and elevated LFTs
   consistent with alcoholic liver disease.
   .
   #  ETOH withdrawal/agitation: Patient has longstanding history of
   alcohol abuse and has had prolonged period of heavy drinking with no
   sobriety last 2 months. Last drink was approximately 36 hours prior to
   admission but history unclear. [**Name2 (NI) 1490**] use and current symptoms, he is at
   risk for withdrawak seizures and was in DTs given concurrent
   hallucinations and confusion associated with symptoms of withdrawal.
   - monitor on CIWA: valium PO only
   - thiamine [**Hospital1 7**], MIV, Folic Acid
   - restraints d/c
   - SW consult for alcohol abuse
   - ?CM consult while on floor for inpatient or other program; floor team
   can also get psych eval if necessary
   - d/c
d foley
   .
   #  Elevated LFTs: 2:1 AST:ALT ratio and increased alcohol intake make
   alcoholic liver disease most likely etiology. Discriminant function
   19-30 based on range of lab's control. Since <32, no indication for
   steroids. Also has history of sarcoidosis and T cell lymphoma and ?
   hemochromatosis, but I think these are less likely etiologies of his
   acute presentation given correlation with increased ETOH intake per
   reprot. Tylenol level negative and no recent use per report. Bili also
   elevated but no e/o cholecystitis.
   -LFTs trending down today
   - hepatitis ABC negative, iron NL and ferritin/TIBC not elevated to
   suggest hemochromatosis
   - appreciate liver recommendations and consult; await final endoscopy
   report
   .
   #  GIB/Anemia: Pt has history of UGIB related to severe esophagitis in
   [**2098**] but no previous history of varices. Given recent vomiting, also at
   risk for [**First Name4 (NamePattern1) 241**] [**Last Name (NamePattern1) 37**] tear. Could also have developed varices given
   severe portal gastropathy on previous EGD.
   - change PPI to PO
   - PIVs
   - Monitored serial HCTs q6; can change to [**Hospital1 7**] without active bleeding
   - maintain active type and cross (has 4 units cross matched)
   -f/u final head CT
   .
   # Pancytopenia: Likely secondary to chronic liver disease; however
   since MCV is normal other etiologies may have to be ruled out,
   especially with history of T cell lymphoma
   - add on B12, folate, ferritin; HIV test today
   - consider blood smear, BM biopsy; heme consult if still unclear
   - continue to monitor
   .
   # Hypertension: Likely multifactorial related to withdrawal and known
   history of hypertension with recent med noncompliance; improving
   - valium prn CIWA
   - restart home beta blocker, changed to metoprolol given impaired renal
   clearance with atenolol
   .
   # Code: Ok to intubate, DNR per d/w girlfriend who spoke with pt about
   this previously
   -will d/w pt. today now that more alert
   .
   # Communication: Patient and girlfriend [**Name (NI) 4822**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8938**] who
   is HCP, confirmed with pt
   .
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-6-21**] 04:28 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  IV ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: call out to floor today ; CXR PA/LA ordered given widened
   midiatinum
   ------ Protected Section ------
   Per patient, he is NOT DNR, and NOT DNI.  He would want intubation and
   resuscitation temporarily.
   He refused HIV consent currently.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1216**] [**Last Name (NamePattern1) 8985**], MD
   on:[**2102-6-22**] 12:40 ------

2102-06-23 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FALL - At [**2102-6-23**] 12:20 AM
   pt climbing over bed- witnessed and respinced to by 2 [**Name (NI) 8999**] pt attempting
   to run to other side of bed and fell to knees, witness and not hitting
   head- pt then standing on own and guided back to bed by 2 RN and MD,
   then calming when in bed and given IV Valium.  Valium 65mg IV total
   requirement o/n.
   Allergies:
   Cephalosporins
   Rash; Renal Tox
   Penicillins
   Rash; Renal Tox
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2102-6-23**] 12:00 AM
   Diazepam (Valium) - [**2102-6-23**] 03:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-23**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.6
   HR: 73 (68 - 103) bpm
   BP: 153/65(83) {117/47(65) - 176/107(113)} mmHg
   RR: 21 (15 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,660 mL
                                                                    192 mL
   PO:
                                                                    680 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    980 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                    500 mL
   Urine:
                                                                  3,050 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,390 mL
                                                                   -309 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   9.1 g/dL
   92 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   5 mg/dL
   107 mEq/L
   140 mEq/L
   27.9 %
   2.8 K/uL
        [image002.jpg]
                             [**2102-6-21**]  02:06 AM
                             [**2102-6-21**]  09:51 AM
                             [**2102-6-21**]  03:39 PM
                             [**2102-6-21**]  10:38 PM
                             [**2102-6-22**]  03:08 AM
                             [**2102-6-22**]  04:32 PM
                             [**2102-6-23**]  02:19 AM
   WBC
   2.8
   2.2
   3.2
   2.7
   2.8
   Hct
   28.5
   28.5
   27.9
   28.6
   28.0
   30.2
   27.9
   Plt
   77
   74
   87
   92
   105
   Cr
   1.3
   1.3
   1.2
   1.2
   1.1
   1.2
   Glucose
   98
   85
   89
   113
   91
   126
   92
   Other labs: PT / PTT / INR:13.6/26.7/1.2, ALT / AST:76/125, Alk Phos /
   T Bili:142/6.7, Amylase / Lipase:62/47, Differential-Neuts:57.0 %,
   Band:0.0 %, Lymph:26.0 %, Mono:13.0 %, Eos:2.0 %, Albumin:3.5 g/dL,
   LDH:272 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED HEALTH MAINTENANCE
 ALCOHOL ABUSE
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Assessment and Plan: This is a 50 year old man with history of ETOH
   abuse admitted to ICU with alcohol withdrawal and elevated LFTs
   consistent with alcoholic liver disease.
   #  ETOH withdrawal/agitation: Patient has longstanding history of
   alcohol abuse and has had prolonged period of heavy drinking with no
   sobriety last 2 months. Last drink was approximately 36 hours prior to
   admission but history unclear. [**Name2 (NI) 1490**] use and current symptoms, he is at
   risk for withdrawak seizures and was in DTs given concurrent
   hallucinations and confusion associated with symptoms of withdrawal.
   - monitor on [**Name2 (NI) 2652**]: valium IV now, try to switch to PO
   - thiamine [**Hospital1 7**], MIV, Folic Acid
   - restraints d/c
d, 1:1 sitter
   - SW consult for alcohol abuse, waiting on recs
   - ?CM consult while on floor for inpatient or other program; floor team
   can also get psych eval if necessary
   #  Elevated LFTs: 2:1 AST:ALT ratio and increased alcohol intake make
   alcoholic liver disease most likely etiology. Discriminant function
   19-30 based on range of lab's control. Since <32, no indication for
   steroids. Also has history of sarcoidosis and T cell lymphoma and ?
   hemochromatosis, but I think these are less likely etiologies of his
   acute presentation given correlation with increased ETOH intake per
   reprot. Tylenol level negative and no recent use per report. Bili also
   elevated but no e/o cholecystitis.
   -hepatology following, felt that bleed likely [**Doctor First Name 241**]-[**Doctor Last Name **] tear from
   emesis.  Will continue to follow.-
   -LFTs trending down today
   - hepatitis ABC negative, iron NL and ferritin/TIBC not elevated to
   suggest hemochromatosis
   - appreciate liver recommendations and consult; await final endoscopy
   report
   # Pancytopenia: Likely secondary to chronic liver disease; however
   since MCV is normal other etiologies may have to be ruled out,
   especially with history of T cell lymphoma
   - add on B12, folate, ferritin;
   -consented for HIV test
   - consider blood smear, BM biopsy; heme consult if still unclear
   - continue to monitor
   #  GIB/Anemia: Pt has history of UGIB related to severe esophagitis in
   [**2098**] but no previous history of varices. Given recent vomiting, also at
   risk for [**First Name4 (NamePattern1) 241**] [**Last Name (NamePattern1) 37**] tear. Could also have developed varices given
   severe portal gastropathy on previous EGD.   3 pt drop in hct o/n.
   - check hct this afternoon
   -change PPI to PO
   - PIVs
   - Monitored serial HCTs q12
   - maintain active type and cross (has 4 units cross matched)
   # Hypertension: Likely multifactorial related to withdrawal and known
   history of hypertension with recent med noncompliance; improving
   - valium prn [**Last Name (NamePattern1) 2652**]
   - restart home beta blocker, changed to metoprolol given impaired renal
   clearance with atenolol
   # Code:
   -Pt full code.  d/w with girlfriend.
   # Communication: Patient and girlfriend [**Name (NI) 4822**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8938**] who
   is HCP, confirmed with pt
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-6-21**] 04:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-06-24 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2102-6-23**] 11:15 AM
   quiet overnight
   D/C HIV test
   EKG normal
   Psych c/s suggests BZ only for CIWA.  Also Haldol for
   agitation/insomnia.  Also suggests outpt AA.
   SW consulted
   Called out.
   Allergies:
   Cephalosporins
   Rash; Renal Tox
   Penicillins
   Rash; Renal Tox
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2102-6-23**] 09:10 AM
   Haloperidol (Haldol) - [**2102-6-23**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-24**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 73 (67 - 107) bpm
   BP: 128/36(59) {118/36(58) - 186/108(114)} mmHg
   RR: 19 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    483 mL
                                                                     72 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    243 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                      0 mL
   Urine:
                                                                  2,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,217 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   9.1 g/dL
   92 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   5 mg/dL
   107 mEq/L
   140 mEq/L
   27.9 %
   2.8 K/uL
        [image002.jpg]
                             [**2102-6-21**]  02:06 AM
                             [**2102-6-21**]  09:51 AM
                             [**2102-6-21**]  03:39 PM
                             [**2102-6-21**]  10:38 PM
                             [**2102-6-22**]  03:08 AM
                             [**2102-6-22**]  04:32 PM
                             [**2102-6-23**]  02:19 AM
   WBC
   2.8
   2.2
   3.2
   2.7
   2.8
   Hct
   28.5
   28.5
   27.9
   28.6
   28.0
   30.2
   27.9
   Plt
   77
   74
   87
   92
   105
   Cr
   1.3
   1.3
   1.2
   1.2
   1.1
   1.2
   Glucose
   98
   85
   89
   113
   91
   126
   92
   Other labs: PT / PTT / INR:13.6/26.7/1.2, ALT / AST:76/125, Alk Phos /
   T Bili:142/6.7, Amylase / Lipase:62/47, Differential-Neuts:57.0 %,
   Band:0.0 %, Lymph:26.0 %, Mono:13.0 %, Eos:2.0 %, Albumin:3.5 g/dL,
   LDH:272 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: B12 1013*
   Folate: 13.3
   Ferritin: greater than assay
   Imaging: None
   Microbiology: None
   ECG: Normal sinus
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED HEALTH MAINTENANCE
 ALCOHOL ABUSE
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Assessment and Plan: This is a 50 year old man with history of ETOH
   abuse admitted to ICU with alcohol withdrawal and elevated LFTs
   consistent with alcoholic liver disease.
   #  ETOH withdrawal/agitation: Likely now due to BZ intoxication,
   - benzo discontinued, controlling aggitation with haldol
   - thiamine [**Hospital1 7**], MIV, Folic Acid
   - 1:1 sitter
   - SW consult, will help set pt up with AA
   - Psych recs appreciated
   #  Elevated LFTs: 2:1 AST:ALT ratio and increased alcohol intake make
   alcoholic liver disease most likely etiology. EGD just showed
   esophagitis
   - liver enzymes trending down and hepatitis serologies negative,
   hepatology singed off
   # Pancytopenia: Likely secondary to chronic liver disease; however
   since MCV is normal other etiologies may have to be ruled out,
   especially with history of T cell lymphoma
   -D/C HIV  test due to lack of consent
   - continue to monitor
   -outpt heme/onc follow up
    #  GIB/Anemia: Pt has history of UGIB related to severe esophagitis in
   [**2098**] but no previous history of varices. EGD just showed esophagitis
   - Monitored serial HCTs q12
   # Hypertension: Likely multifactorial related to withdrawal and known
   history of hypertension with recent med noncompliance; improving
   - restart home beta blocker, changed to metoprolol given impaired renal
   clearance with atenolol
   -Cr trended down, consider adding ACE
   # Communication: Patient and girlfriend [**Name (NI) 4822**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8938**] who
   is HCP, confirmed with pt
   ICU [**Name (NI) 81**]
   Nutrition:
   Comments: Regular
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2102-6-23**] 11:16 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2102-06-24 16:10:00 Physician Attending Progress Note
Chief Complaint: EtOH withdrawal/delerium tremens
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No issues overnight
   24 Hour Events:
 EKG - At [**2102-6-23**] 11:15 AM
 CALLED OUT
   History obtained from Patient
   Allergies:
   Cephalosporins
   Rash; Renal Tox
   Penicillins
   Rash; Renal Tox
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-6-24**] 04:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 79 (67 - 102) bpm
   BP: 107/95(98) {98/36(56) - 159/108(114)} mmHg
   RR: 18 (10 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    483 mL
                                                                    251 mL
   PO:
                                                                    240 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    243 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                      0 mL
   Urine:
                                                                  2,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,217 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   145 K/uL
   89 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   7 mg/dL
   104 mEq/L
   138 mEq/L
   28.4 %
   3.3 K/uL
        [image002.jpg]
                             [**2102-6-21**]  02:06 AM
                             [**2102-6-21**]  09:51 AM
                             [**2102-6-21**]  03:39 PM
                             [**2102-6-21**]  10:38 PM
                             [**2102-6-22**]  03:08 AM
                             [**2102-6-22**]  04:32 PM
                             [**2102-6-23**]  02:19 AM
                             [**2102-6-24**]  06:08 AM
   WBC
   2.8
   2.2
   3.2
   2.7
   2.8
   3.3
   Hct
   28.5
   28.5
   27.9
   28.6
   28.0
   30.2
   27.9
   28.4
   Plt
   77
   74
   87
   92
   105
   145
   Cr
   1.3
   1.3
   1.2
   1.2
   1.1
   1.2
   1.2
   Glucose
   98
   85
   89
   113
   91
   126
   92
   89
   Other labs: PT / PTT / INR:13.8/26.5/1.2, ALT / AST:69/100, Alk Phos /
   T Bili:133/5.8, Amylase / Lipase:62/47, Differential-Neuts:57.0 %,
   Band:0.0 %, Lymph:26.0 %, Mono:13.0 %, Eos:2.0 %, Albumin:3.5 g/dL,
   LDH:253 IU/L, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   49 yo man with EtOH abuse, here with alcohol withdrawal.
   1. EtOH withdrawal: Now improved.  Monitoring for DTs.
   2. Alcoholic hepatitis: LFTs trending down
   3. GI Bleed/Blood loss anemia: Hct stable.
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-6-23**] 11:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 25 minutes